US06103738
(a) 3-Benzyloxy-4-methoxybenzonitrile
3-Benzyloxy-4-methoxybenzaldehyde (50 g, 0.21 mol) was added to a solution of sodium acetate (33.9 g, 0.41 mol) and hydroxylamine hydrochloride (28.73 g, 0.41 mol) in acetic acid (200 ml) and the resulting suspension was heated to reflux for 18 h. After cooling, the reaction mixture was partitioned between CH2Cl2 and H2O and the aqueous phase was further extracted with CH2Cl2. The combined organic layers were dried over MgSO4 and evaporated to afford the subtitle compound as a buff-coloured solid (43.9 g, 89%). Rf 0.70 (toluene/EtOAc 4/1, v/v).

reactant | 3-Benzyloxy-4-methoxybenzaldehyde | 0.21 mol, 50 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | sodium acetate | 0.41 mol, 33.9 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.41 mol, 28.73 g | Cl.NO
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-Benzyloxy-4-methoxybenzonitrile | 43.9 g, 89% | C(C1=CC=CC=C1)OC=1C=C(C#N)C=CC1OC | C15H13NO2
